US07897609B2
Triethylamine (17.3 g, 171 mmol) was added to a suspension of 7-bromo-4-chloro-3-nitro[1,5]naphthyridine (52.2 mmol) in DMF (50 mL), and then a solution of 2-fluoro-2-methylpropan-1-amine hydrochloride (5.46 g, 42.8 mmol) in DMF (25 mL) was added dropwise over a period of ten minutes. The reaction mixture was stirred at room temperature for 14.5 hours, and water (500 mL) was added. The resulting mixture was stirred for one hour. A solid was present and was isolated by filtration, washed with water, and dried overnight in a vacuum oven at 65° C. to provide 14.7 g of 7-bromo-N-(2-fluoro-2-methylpropyl)-3-nitro[1,5]naphthyridin-4-amine as a reddish-brown solid.

reactant | Triethylamine | 171 mmol, 17.3 g | C(C)N(CC)CC | C6H15N
reactant | 7-bromo-4-chloro-3-nitro[1,5]naphthyridine | 52.2 mmol | BrC1=CN=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C8H3BrClN3O2
reactant | 2-fluoro-2-methylpropan-1-amine hydrochloride | 42.8 mmol, 5.46 g | Cl.FC(CN)(C)C
reactant | water | 500 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 7-bromo-N-(2-fluoro-2-methylpropyl)-3-nitro[1,5]naphthyridin-4-amine | 14.7 g | BrC1=CN=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC(C)(C)F | C12H12BrFN4O2
